Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7](=[O:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11],-0.585862193169
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.4837095147
[H:10].[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.8353860882
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.78355311905
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.5781849167700001
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])(=[O:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]([C:4]([H:5])[H:6])[H:8],0.482460251061
[O:1]=[C:2]([C:3][H:4])[C:5](=[O:6])[C:7]([H:8])[H:9]>>[C:5](=[O:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4],-1.28693809721
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.51651185251
[C:6][O:7][H:8].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8],-5.2095770258
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.05785180056
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11]>>[C:3]([H:4])#[C:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][O:2],3.28097616672
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.49440244449
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.3399443934
[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.93643216378
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.81634259206
[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.20380469043
[H:18].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.556782917
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])=[C:5][H:6],6.57372826596
[H:1][O:2][C@@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-3.03872603511
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:10][H:11].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.8921935104000003
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.30100713
[H:1][O:2][C:3]#[C:5][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.16165033801
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],4.61192153436
[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([H:6])[H:7].[O:1][O:2][C:3][C:8]([H:9])([H:10])[H:11],5.668490064480001
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7][O:8][C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11],1.45571352574
[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2]=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.896876282230001
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.00184129389
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.9011570412
